US06559168B2
4-(3-Cyano-phenoxy)-thiazole-5-carboxylic Acid Ethyl Ester of Formula (9.0.4)
A stirred of 665 mg (3.5 mmol) 4-chloro-thiazole-5-carboxylic acid ethyl ester, 416 mg (3.5 mmol) 3-cyanophenol, 2.4 g (7.3 mmol) Cs2CO3 and 60 mL dimethylformamide was warmed to 80° C. in an oil bath for 72 hours. The mixture was then cooled, poured into 70 mL water, and extracted with ethyl acetate (3×40 mL). The combined extracts were washed with water (2×50 mL), brine (1×50 mL), dried over Na2SO4, and concentrated via rotary evaporation. The resulting oil was chromatographed on a Biotage Flash 40S® silica column, loaded with methylene chloride and eluted with 20% ethyl acetate/80% hexanes to give 375 mg of a light yellow oil.

reactant | 4-chloro-thiazole-5-carboxylic acid ethyl ester | 3.5 mmol, 665 mg | C(C)OC(=O)C1=C(N=CS1)Cl | C6H6ClNO2S
reactant | 3-cyanophenol | 3.5 mmol, 416 mg | C(#N)C=1C=C(C=CC1)O | C7H5NO
reactant | Cs2CO3 | 7.3 mmol, 2.4 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | dimethylformamide | 60 mL | CN(C=O)C | C3H7NO
solvent | water | 70 mL | O | H2O
product | 4-(3-Cyano-phenoxy)-thiazole-5-carboxylic Acid Ethyl Ester | 375 mg | C(C)OC(=O)C1=C(N=CS1)OC1=CC(=CC=C1)C#N | C13H10N2O3S
